US06897224B2
5-Amino-2-(trifluoromethyl)quinoline
390 mg (1.61 mmol) of 5-nitro-2-(trifluoromethyl)quinoline is dissolved in 13 ml of methanol. After the addition of 39 mg of palladium on carbon and 19 mg of potassium carbonate, the reaction mixture is allowed to stir for 20 hours at room temperature under hydrogen atmosphere. It is then filtered on Celite and washed with ethyl acetate. After the solvent is removed in a vacuum and after chromatography on silica gel with hexane-ethyl acetate (0-100%), 250 mg (73% of theory) of the product is obtained.

reactant | 5-nitro-2-(trifluoromethyl)quinoline | 1.61 mmol, 390 mg | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)C(F)(F)F | C10H5F3N2O2
reactant | potassium carbonate | 19 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 13 ml | CO | CH4O
catalyst | palladium on carbon | 39 mg | [Pd] | Pd
product | 5-Amino-2-(trifluoromethyl)quinoline | NC1=C2C=CC(=NC2=CC=C1)C(F)(F)F | C10H7F3N2
